US04116962
N-[2-(Mercaptomethyl)-3-mercaptopropanoyl]-L-phenylalanine
By substituting L-phenylalanine for the L-proline in the procedure of Example 3B, and then submitting the product to the procedure of Example 4, 1-[2-acetylthiomethyl)-3-acetylthiopropanoyl]-L-phenylalanine and 1-[2-(mercaptomethyl)-3-mercaptopropanoyl]-L-phenylalanine are obtained.

reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 1-[2-(mercaptomethyl)-3-mercaptopropanoyl]-L-phenylalanine | SCC(C(=O)C1(C[C@H](N)C(=O)O)CC=CC=C1)CS | C13H19NO3S2
product | N-[2-(Mercaptomethyl)-3-mercaptopropanoyl]-L-phenylalanine | SCC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)CS | C13H17NO3S2
